US04684653
N-(4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamic acid
A homogeneous solution of 0.175 of diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate in 50 mL of methanol containing 3 mL of 1N aqueous sodium hydroxide was stirred at room temperature for 72 hours. Addition of 2 mL of acetic acid followed by centrifugation gave 0.125 g (86) of the title compound, which can be alternatively named as 5,10-dideazafolic acid, as a microcrystalline colorless solid, mp >200° C.; NMR (TFA-d1) delta 2.3-2.7 (m, 2H), 2.7-3.0 (m, 2H), 3.25 (s, 5H), 4.9-5.25 (m, 1H), 7.35, 7.85 (AB q, 4H, J=9 Hz), 8.50 (s, 1H), 8.90 (s, 1H).

reactant | diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C27H31N5O7
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 50 mL | CO | CH4O
product | N-(4-[2-(2-amino-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamic acid | NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C2)O | C21H21N5O6
